US06531502B1
3-(5-Methyl-1H-pyrrole-3-yl)propionic acid was formylated using phosphorus oxycloride (POCl3) and N,N-dimethylformamide (DMF) to give 3-(2-formyl-5-methyl-1H-pyrrole-3-yl)propionic acid.

reactant | 3-(5-Methyl-1H-pyrrole-3-yl)propionic acid | CC1=CC(=CN1)CCC(=O)O | C8H11NO2
reactant | phosphorus oxycloride | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 3-(2-formyl-5-methyl-1H-pyrrole-3-yl)propionic acid | C(=O)C=1NC(=CC1CCC(=O)O)C | C9H11NO3
